US05409930
To 3-hydroxy-6,7-dimethoxyquinoline (150 mg; 0.73 mmol) in 3 mL THF is added benzyl bromide (0.13 mL; 188 mg; 1.10 mmol) and NaH (59 mg; 1.46 mmol). This is stirred at room temperature for 1 hour and 25 mg of NaH added followed by 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)pyrimidinone (DMPU)(255 mg; 2.07 mmol) and stirred at room temperature for 31/2 hours. The reaction mixture is partitioned between EtOAc and distilled H2O and extracted 2× with EtOAc. The latter is washed with brine, dried (MgSO4), filtered, evaporated to dryness and chromatographed with 1% MeOH/CHCl3 to obtain 3-benzyloxy-6,7-dimethoxyquinoline (m.p. 146.5°-148.5° C.).

reactant | 3-hydroxy-6,7-dimethoxyquinoline | 0.73 mmol, 150 mg | OC=1C=NC2=CC(=C(C=C2C1)OC)OC | C11H11NO3
reactant | benzyl bromide | 1.10 mmol, 0.13 mL, 188 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaH | 1.46 mmol, 59 mg | [H-].[Na+]
reactant | NaH | 25 mg | [H-].[Na+]
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)pyrimidinone | 2.07 mmol, 255 mg | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-benzyloxy-6,7-dimethoxyquinoline | C(C1=CC=CC=C1)OC=1C=NC2=CC(=C(C=C2C1)OC)OC | C18H17NO3
